US07592477B2
To a solution of 2,6-dibromo-4-carboxybenzylamine (20 g, 0.064 mol) in dioxane (500 mL), was added an aqueous solution of Na2CO3 (10%, 410 mL) with stirring. After stirring at 26° C. for 15 min was added Fmoc-OSu (30.5 g, 0.09 mol) in portions for 2 h and allowed to stir at ambient temperature for 24 h. The solid precipitate was filtered off and washed with diethyl ether (3×200 mL), followed by methanol (3×200 mL). The solid salt was acidified with an aqueous solution of HCl (3 N, 100 mL) to pH=2. The precipitate was filtered under suction and dried. The crude solid was recrystalised from methanol/diethyl ether to give N-(Fmoc)-2,6-dibromo-4-carboxybenzylamine (30 g, 87%) as a solid.

reactant | 2,6-dibromo-4-carboxybenzylamine | 0.064 mol, 20 g | BrC1=C(CN)C(=CC(=C1)C(=O)O)Br | C8H7Br2NO2
reactant | Na2CO3 | 410 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Fmoc-OSu | 0.09 mol, 30.5 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | N-(Fmoc)-2,6-dibromo-4-carboxybenzylamine | 30 g, 87% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC1=C(C=C(C=C1Br)C(=O)O)Br | C23H17Br2NO4
